US07405300B2
2-Chloro-1H-indole-3-carboxaldehyde is reacted with 3-chlorophenylboronic acid as described in Step 1 of Example 29 to afford 2-chloro-1-(3-chlorophenyl)-1H-indole-3-carboxaldehyde (70% yield) as a cream solid. ESI/MS 290 (M+H); RT 3.55 min; NMR 10.13 (1H, s); 8.21 (1H, d); 7.84 (1H, d); 7.74 (3H, m); 7.38 (2H, m); 7.16 (1H, d, J=9 Hz).

reactant | 2-Chloro-1H-indole-3-carboxaldehyde | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 2-chloro-1-(3-chlorophenyl)-1H-indole-3-carboxaldehyde | 70% yield | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC(=CC=C1)Cl | C15H9Cl2NO
